US06545009B1
In the same manner as in Example 74, methyl 4-thiocarbamoylbenzoate was reacted with 3-bromoacetyl-2,5-dimethylfuran to obtain methyl 4-[4-(2,5-dimethyl-3-furyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 36%. Pale yellow prisms. Melting point: 103 to 105° C.

reactant | methyl 4-thiocarbamoylbenzoate | C(N)(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
reactant | 3-bromoacetyl-2,5-dimethylfuran | BrCC(=O)C1=C(OC(=C1)C)C | C8H9BrO2
product | methyl 4-[4-(2,5-dimethyl-3-furyl)-2-thiazolyl]benzoate | Yield: 36% | CC=1OC(=CC1C=1N=C(SC1)C1=CC=C(C(=O)OC)C=C1)C | C17H15NO3S
